US07732456B2
(2) Preparation of 4-[(E)-2-(4-fluorophenyl)vinyl]-2-(4-methoxybenzyloxy)-pyridine
4-Fluorostyrene (3.0 mL), dichlorobis(triphenylphosphine)palladium (870 mg) and potassium carbonate (5.2 g) were added to DMF (70 mL) solution of 4-iodo-2-(4-methoxybenzyloxy)pyridine (4.25 g) and stirred at 100° C. for 19 hours. Saturated brine was added to the reaction liquid, followed by extraction with ethyl acetate and drying over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the resulting residue was purified on silica gel column chromatography (C-200; ethyl acetate:hexane=1:19-1:9-1:4) to provide the title compound (2.55 g, 61%).

reactant | 4-Fluorostyrene | 3.0 mL | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 70 mL | CN(C)C=O | C3H7NO
reactant | 4-iodo-2-(4-methoxybenzyloxy)pyridine | 4.25 g | IC1=CC(=NC=C1)OCC1=CC=C(C=C1)OC | C13H12INO2
solvent | brine | [Cl-].[Na+].O
catalyst | dichlorobis(triphenylphosphine)palladium | 870 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[(E)-2-(4-fluorophenyl)vinyl]-2-(4-methoxybenzyloxy)-pyridine | 2.55 g, 61% | FC1=CC=C(C=C1)/C=C/C1=CC(=NC=C1)OCC1=CC=C(C=C1)OC | C21H18FNO2
